US05173484
b) 3-Dimethylaminomethyl-3-hydroxypyrrolidine
9.4 g (39 mmol) of 1-benzyl-3-dimethylaminomethyl-3-hydroxypyrrolidine in 60 ml of methanol are hydrogenated using 2 g of palladium/active carbon (5%) at 100° C. and 90 bar. The catalyst is filtered off, the filtrate is concentrated and the residue is distilled.

reactant | 1-benzyl-3-dimethylaminomethyl-3-hydroxypyrrolidine | 39 mmol, 9.4 g | C(C1=CC=CC=C1)N1CC(CC1)(O)CN(C)C | C14H22N2O
solvent | methanol | 60 ml | CO | CH4O
catalyst | palladium | 2 g | [Pd] | Pd
product | 3-Dimethylaminomethyl-3-hydroxypyrrolidine | CN(C)CC1(CNCC1)O | C7H16N2O
